US04820727
Step (2) Preparation of N-(Ethoxycarbonyl)-N-[[6-methoxy-2-(2,2,2-trifluoroethoxy)-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]glycine, 1,1-Dimethylethyl Ester
Sodium hydride (80% by weight dispersion in mineral oil, 0.346 g, 1.1 eq) was added to a stirred solution of N-[[6-methoxy-2-(2,2,2-trifluoroethoxy)-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]carbamic acid, ethyl ester (4.60 g, 10.5 mmol) in anhydrous tetrahydrofuran (125 mL) at room temperature under a dry nitrogen atmosphere. After 1 hour, the t-butyl bromoacetate (2.54 mL, 1.5 eq) was added. The reaction was heated to 65° C. for 1 hour, cooled to room temperature, and the THF was removed. The residue was dissolved in ether (200 mL), washed with water (2×50 mL) and saturated aqueous NaCl (1×50 mL). The ether phase was dried with magnesium sulfate and the ether was removed. The crude product was flash chromatographed (17:3 petroleum ether:ethyl acetate, silica) and triturated with petroleum ether to provide the title compound as a white powder (4.60 g, 79%), m.p. 84°-86° C.

reactant | Sodium hydride | 0.346 g, 1.1 eq | [H-].[Na+]
reactant | N-[[6-methoxy-2-(2,2,2-trifluoroethoxy)-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]carbamic acid, ethyl ester | 10.5 mmol, 4.60 g | COC=1C(=C2C=CC(=C(C2=CC1)C(=O)NC(OCC)=O)OCC(F)(F)F)C(F)(F)F | C18H15F6NO5
reactant | t-butyl bromoacetate | 2.54 mL, 1.5 eq | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | tetrahydrofuran | 125 mL | O1CCCC1 | C4H8O
product | N-(Ethoxycarbonyl)-N-[[6-methoxy-2-(2,2,2-trifluoroethoxy)-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]glycine, 1,1-Dimethylethyl Ester | 4.60 g, 79% | C(C)OC(=O)N(CC(=O)OC(C)(C)C)C(=O)C1=C(C=CC2=C(C(=CC=C12)OC)C(F)(F)F)OCC(F)(F)F | C24H25F6NO7
